US07244763B2
Step 2. Preparation of {6-[5-(4-Chloro-phenyl)-isoxazol-3-ylmethoxy]-benzofuran-3-yl}-acetic acid methyl ester (Compound 24B)
A solution of (6-hydroxy-benzofuran-3-yl)-acetic acid methyl ester (0.41 g, 2.0 mmol) and commercially available 3-(chloromethyl)-5-(4-chlorophenyl)isoxazole (0.46 g, 2.0 mmol) were combined in 15 ml of acetonitrile. The mixture was stirred at room temperature for 64 hours and filtered. The insoluble material was washed on the funnel several times with fresh acetonitrile. The bulk of the solvent was evaporated, and the residue was partitioned between 200 ml of ethyl acetate and 150 ml of brine. The layers were separated, and the aqueous layer was extracted with fresh ethyl acetate (2×100 ml). The combined organic layers were back-washed with brine (2×150 ml), then dried over anhydrous sodium sulfate and concentrated. The crude product was purified by normal phase chromatography. mp 136–137° C.; MS m/z 397 (M−1).

reactant | (6-hydroxy-benzofuran-3-yl)-acetic acid methyl ester | 2.0 mmol, 0.41 g | COC(CC1=COC2=C1C=CC(=C2)O)=O | C11H10O4
reactant | 3-(chloromethyl)-5-(4-chlorophenyl)isoxazole | 2.0 mmol, 0.46 g | ClCC1=NOC(=C1)C1=CC=C(C=C1)Cl | C10H7Cl2NO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | {6-[5-(4-Chloro-phenyl)-isoxazol-3-ylmethoxy]-benzofuran-3-yl}-acetic acid methyl ester | COC(CC1=COC2=C1C=CC(=C2)OCC2=NOC(=C2)C2=CC=C(C=C2)Cl)=O | C21H16ClNO5
